US04767766
Step B: Preparation of Methyl 4-(4-methoxybenzylthio)nicotinate
A suspension of 2.2 g (0.008 mole) of 4-(4-methoxybenzylthio)-nicotinic acid in 30 mL of dry N,N-dimethylformamide was reacted with 1.78 g (0.011 mole) of 1,1'-carbonyldiimidazole. This was stirred at room temperature for 2 hours, then 0.5 mL of 4.3M sodium methoxide in methanol and 5 mL of methanol. The reaction was stirred for 1 hour at room temperature, then partitioned between 75 mL of ether and 30 mL of water. The ether layer was extracted with 2×30 mL of water, dried, concentrated to a small volume, and hexane added to crystallize methyl 4-(4-methoxybenzylthio) nicotinate; yield 1.66 g (72% of theory), m.p. 108°-110° C.

reactant | 4-(4-methoxybenzylthio)-nicotinic acid | 0.008 mole, 2.2 g | COC1=CC=C(CSC2=CC=NC=C2C(=O)O)C=C1 | C14H13NO3S
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium methoxide | 4.3M, 0.5 mL | C[O-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 4-(4-methoxybenzylthio)nicotinate | COC1=CC=C(CSC2=CC=NC=C2C(=O)OC)C=C1 | C15H15NO3S
